US09024021B2
A mixture of 3-ethynylimidazo[1,2-a]pyrazine (0.09 g, 0.6 mmol), N′-(3-iodo-4-methylbenzoyl)-2,4,6-trichlorobenzohydrazide (0.3 g, 0.6 mmol), Pd(PPh3)4 (0.036 g, 0.03 mmol), CuI (0.008 g, 0.03 mmol) and diisopropylethylamine (0.75 ml, 0.9 mmol) in DMF (10 ml) was stirred at ambient temperature for 12 hrs under an atmosphere of nitrogen. The reaction mixture was concentrated and the crude product was purified by flash chromatography on silica gel (elution with 10% methanol in dichloromethane) to provide 2,4,6-trichloro-N′-[3-[2-(2-imidazo[1,2-a]pyrazin-3-yl)ethynyl)]]-4-methylbenzoyl]benzohydrazide.

reactant | 3-ethynylimidazo[1,2-a]pyrazine | 0.6 mmol, 0.09 g | C(#C)C1=CN=C2N1C=CN=C2 | C8H5N3
reactant | N′-(3-iodo-4-methylbenzoyl)-2,4,6-trichlorobenzohydrazide | 0.6 mmol, 0.3 g | IC=1C=C(C(=O)NNC(C2=C(C=C(C=C2Cl)Cl)Cl)=O)C=CC1C | C15H10Cl3IN2O2
reactant | diisopropylethylamine | 0.9 mmol, 0.75 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.03 mmol, 0.036 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.03 mmol, 0.008 g | [Cu]I
product | benzohydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
